Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],4.08765869536
[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[H:8]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-5.0061354080900005
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])=[C:5]=[O:6],0.1792963532499999
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-1.56708086485
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[O:1]=[C:2][H:3],4.3809065123
[H:9].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])[H:8]>>[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])([H:8])[H:9],-4.21237363365
[C:7]([H:8])#[C:9][H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-1.07785245787
[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])#[C:11][H:12].[H:1][C:2]([H:13])[H:14]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.42614386002
[H:1][O:2][C:3][C:9]([C:6]([C:5]=[O:4])([H:7])[H:8])([H:10])[H:11]>>[H:1][O:2][C:3]1[O:4][C:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-0.24119029798
[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[C:4]([H:5])[H:6].[H:1][C:2][H:3],9.1917648
[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6][H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8]>>[H:1][C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.84330263298
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])[C:6]#[C:8][C:9]([H:10])[H:11].[H:7],3.5427036613
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]=[O:6],0.4451454385
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15].[H:6],1.9064869281
[H:1][C:2]([H:3])/[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](\[O:5][C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],5.599519485469999
[H:1][O:2][C:3]#[C:4][C:7]([H:8])[H:9].[O:5][H:6]>>[H:1][O:2][C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-4.20133435212
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10],2.18734280059
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][H:3].[O:4]=[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],2.14633627626
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],3.13271496897
[H:1][C:2]([H:3])[C:4]1([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-0.0734794498703
[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7][H:8]>>[H:8].[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7],3.00498657255
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.32734353924
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14],1.10884818815
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.3052600129300025
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][O:8][H:9]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7].[O:8][H:9],5.98071520659
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],4.5420943224400006
[C:1][C:2](=[C:3]([O:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([C:3]([O:4][H:5])=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7],1.14428113463
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[O:9][H:10],4.420827262
[C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],-4.24020855827
[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],-1.07283852294
